Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lactose / morphine / onions
 
Attending: ___
 
Chief Complaint:
abdominal pain/SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with history of alcoholic cirrhosis, alcohol 
abuse 
complicated by withdrawal seizures, asthma with multiple 
intubations in the 
past presenting with abdominal pain and SOB.

Pt states his symptoms began ___ days ago with abdominal pain 
and SOB.  Abdominal pain radiates to his back and bilateral, 
associated with nausea and "dry heaves".  Also with subjective 
fevers and chills.  No hematemesis, melena, or hematochezia.  
Unclear if pain worsened with food but pt has only been taking 
in liquids recently.  Uncertain if this feels like prior 
episodes of pancreatitis.  Pt states he also began drinking 
again several days ago.  

Pt additionally reports SOB over this time as well with 
associated dry cough and wheezing.  Has not missed any doses of 
meds but does report not getting methadone for last few days d/t 
DOE.

In the ED,
VS: Temp: 99.5 HR: 110 BP: 131/92 Resp: 20 O(2)Sat: ___id not appear to be actively w/d'ing on initial exam.  Pulm 
exam notable for wheezing
Labs: AST: 136, ALT: 37, Alk Phos: 982, Tbili: 2.3 (mildly 
hemolyzed specimen)
CXR negative, CT a/p negative for pancreatitis, did show know 
cirrhosis with splenomegaly and esophageal varices.
___ given several duonebs, methylpred, 1L NS, Zofran, 
hydromorphone and admitted for management of abdominal pain, 
EtOH w/d, and asthma exacerbaton

ROS:
GEN: positive for fevers, chills, negative for weight loss
HEENT: denies vision changes, headache
CV: denies chest pain, palpitations
RESP: see above HPI
GI: see above HPI
EXT: denies edema
NEURO: reports tremors, denies numbness/weakness
Rest of 10 point review of systems otherwise negative.

 
Past Medical History:
-Immunodeficiency/CMV gastritis
-Esophageal candidiasis
-Asthma with h/o intubation and difficult extubation  
-Substance abuse: etoh with h/o withdrawal and DTs
-ETOH cirrhosis 
-Pancreatitis
-Adjustment Disorder with Depressed Mood  
-Gastritis without bleeding due to alcohol and CMV (CMV seen on 
path report from gastric biopsy ___
-Atopic Dermatitis  
-Allergic Rhinitis 
 
Social History:
___
Family History:
Uncle died of EtOH cirrhosis. Multiple family members with 
asthma including mother and sister. No other known ailments on 
maternal side, does not know about father's side. 
 
Physical Exam:
GEN: laying in bed, appears to be in discomfort
HEENT: no scleral icterus, no tongue fasciculations
CV: RRR, no m/r/g, no JVD
RESP: Diffuse wheezing throughout with decreased air movement, 
no respiratory distress
GI: Soft, TTP in RUQ and LUQ, no rebound, mildly distended
EXT: no edema, WWP
SKIN: No rashes, no jaundice
NEURO: AAOx3, conversing normally, mild bilateral hand tremor, 
no asterixis
PSYCH: Normal mood and affect, no e/o visual or auditory 
hallucinations

 
Pertinent Results:
___ 01:40AM BLOOD WBC-8.3 RBC-4.33* Hgb-12.2* Hct-39.1* 
MCV-90# MCH-28.2 MCHC-31.2* RDW-16.0* RDWSD-52.0* Plt ___
___ 01:40AM BLOOD Neuts-66.8 Lymphs-18.0* Monos-11.3 
Eos-2.9 Baso-0.5 Im ___ AbsNeut-5.55# AbsLymp-1.49 
AbsMono-0.94* AbsEos-0.24 AbsBaso-0.04
___ 02:12AM BLOOD ___ PTT-35.3 ___
___ 01:40AM BLOOD Glucose-86 UreaN-7 Creat-0.4* Na-137 
K-4.1 Cl-102 HCO3-23 AnGap-16
___ 01:40AM BLOOD ALT-37 AST-136* AlkPhos-982* TotBili-2.3*
___ 01:40AM BLOOD Lipase-86*
___ 01:40AM BLOOD Albumin-4.0 Calcium-8.7 Phos-2.8 Mg-1.7

EXAMINATION:  Chest radiograph. (___)
  
INDICATION:  ___ w/wheeze and cough and tactile fevers, please 
eval for PNA  
// ___ w/wheeze and cough and tactile fevers, please eval for 
PNA 
  
TECHNIQUE:  Single AP view. 
  
COMPARISON:  CTA chest ___. 
  
FINDINGS:  
  
Lung volumes are low.  Bibasal areas of atelectasis are 
extensive, in 
particular in the right lung base Heart size is within normal 
limits.  Lung 
fields are clear.  There is no pneumothorax. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

EXAMINATION:  CT abdomen pelvis. (___)
  
INDICATION:  NO_PO contrast; ___ w/cirrhosis, abdominal pain, 
immunosuppressed 
with fevers, please eval for intraabdominal abscessNO_PO 
contrast  // ___ 
w/cirrhosis, abdominal pain, immunosuppressed with fevers, 
please eval for 
intraabdominal abscess 
  
TECHNIQUE:  Single phase split bolus contrast: MDCT axial images 
were acquired 
through the abdomen and pelvis following intravenous contrast 
administration 
with split bolus technique. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Stationary Acquisition 6.5 s, 0.5 cm; CTDIvol = 31.3 mGy 
(Body) DLP = 
15.6 mGy-cm. 
   2) Spiral Acquisition 5.0 s, 54.5 cm; CTDIvol = 16.8 mGy 
(Body) DLP = 914.7 
mGy-cm. 
 Total DLP (Body) = 930 mGy-cm. 
  
COMPARISON:  CT ___ and MRCP ___ 
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver has a cirrhotic morphology.  There is 
no evidence of 
focal lesions.  There is no evidence of intrahepatic or 
extrahepatic biliary 
dilatation.  The gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: Mild splenomegaly is unchanged.  The attenuation of the 
spleen is 
within normal limits. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  The 
colon and 
rectum are within normal limits.  The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate is unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted.  Esophageal, splenic and periportal varices are 
unchanged. 
  
BONES: Mild to moderate compression deformities of the T7 and T9 
vertebral 
bodies are unchanged.  No evidence of osseous malignancy or 
infection. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. No acute intra-abdominal abnormality. 
2. Cirrhotic liver morphology with re-demonstrated mild 
splenomegaly and 
varices.  No focal hepatic lesions seen. 

 
Brief Hospital Course:
ASSESSMENT/PLAN:
___ male with PMHx alcoholic cirrhosis, alcohol abuse 
complicated by withdrawal seizures, asthma with multiple 
intubations in the past, and chronic pain on methadone 
presenting with abdominal pain and SOB.

# Abdominal pain-- Pt reports mid-epigastric pain on 
presentation radiating to back and flanks.  CT a/p performed in 
ED negative for any acute processes or signs of acute 
pancreatitis.  Very mild elevation in lipase.  This was felt to 
be more likely alcoholic gastritis rather than acute on chronic 
pancreatitis.  It was managed conservatively with bowel rest and 
initially IV dilaudid which was transitioned to PO after pt 
tolerating diet.  PO dilaudid was also subsequently tapered and 
pt was discharged with a 2 day supply for any ongoing 
breakthrough pain.

# EtOH w/d-- ___ was monitored on CIWA and initially required 
several doses of 4mg PO ativan which was tapered to 2 mg, 1 mg 
and subsequently off as pt was no longer showing signs of 
withdrawal.

# SOB/Asthma exacerbation--  Pt presents with SOB and is very 
wheezy on exam with poor air movement.  Unclear trigger for 
asthma exacerbation but suspect possible ?aspiration event in 
s/o recent ETOH intake.  ___ reports medication compliance but 
this may have also been a precipitating factor.  He was started 
on a prednisone burst, azithromycin, and given duonebs with 
improvement.

# Opiate dependence-- Per reports, pt with long history of 
hydromorphone use/abuse with issues in the past with getting 
discharged from methadone clinics.  Currently, he is at Habit 
OPCO and was continued on 80mg methadone.  Pt expressed 
significant discontent with his pain medication regimen while 
inpatient.  However, it was felt to be unsafe to escalate 
regimen more than 0.5mg IV dilaudid q4H initially as he was also 
getting his outpatient methadone in addition to Ativan.  Staff 
also found him to be frequently somnolent despite reports that 
his pain was poorly controlled.

# Elevated Transaminases--  Mildly elevated AST, Alk phos in 
900's.  Alk phos has been significantly elevated in 800's in the 
past.  MRCP was done last admission in ___ and this did not 
show an intra- or exta-hepatic biliary duct dilatation or 
masses.  Alk phos remained elevated throughout his stay but his 
AST/ALT downtrended.

# Cirrhosis-- home lasix and spironolactone were held initially 
as pt had poor PO intake.  He remained euvolemic despite holding 
these medications and they will be resumed upon discharge.

Transitional Issues:
[ ] ___ with chronic cirrhosis with e/o varices and splenomegaly 
on recent imaging.  Consider EGD for evaluation of degree of 
varices after discharge and to evaluate for chronic gastritis as 
cause for recurrent episodes of epigastric abdominal pain.  Also 
need to consider nadalol and PPI for prophylaxis pending results 
of EGD

Billing: Greater than 30 minutes were spent on discharge 
coordination and counseling.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acamprosate 666 mg PO TID 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Montelukast 10 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Sertraline 100 mg PO DAILY 
10. Spironolactone 50 mg PO DAILY 
11. Thiamine 100 mg PO DAILY 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QID 
15. melatonin 3 mg oral QHS 
16. Symbicort (budesonide-formoterol) ___ inhalation  INHALATION 
BID 

 
Discharge Medications:
1.  Azithromycin 500 mg PO Q24H 
RX *azithromycin 500 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Severe 
Duration: 2 Days 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 6 
hours as needed for pain Disp #*8 Tablet Refills:*0 
3.  PredniSONE 50 mg PO DAILY Duration: 1 Day 
RX *prednisone 50 mg 1 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0 
4.  Acamprosate 666 mg PO TID  
5.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea  
6.  Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QID  
7.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Furosemide 40 mg PO DAILY  
10.  melatonin 3 mg oral QHS  
11.  Methadone 80 mg PO DAILY  
12.  Montelukast 10 mg PO DAILY  
13.  Multivitamins 1 TAB PO DAILY  
14.  Pantoprazole 40 mg PO Q24H  
15.  Sertraline 100 mg PO DAILY  
16.  Spironolactone 50 mg PO DAILY  
17.  Thiamine 100 mg PO DAILY  
18.  Tiotropium Bromide 1 CAP IH DAILY  
19.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Alcohol withdrawal
Asthma exacerbation
Opiate dependence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with abdominal pain.  We think that this pain is 
either from irritation of your stomach or a very mild 
pancreatitis.  We treated you with pain medications which you 
did not think helped very much and bowel rest for a day.  We 
also did a CT scan of your abdomen which did not show anything 
concerning.

We also treated you for alcohol withdrawal while you were here 
and continued you on your methadone.  We also treated you for an 
asthma exacerbation and your breathing was much improved by the 
time you left.
 
Followup Instructions:
___